US09216943B2
Preparation of 3-nitro-1-(4-octylphenyl)propan-1-one
3-Chloro-1-(4-octylphenyl)propan-1-one (110 g) and acetone (1 L) are charged into a round bottom flask equipped with a condenser and guard tube and stirred. Sodium nitrite (271 g) is added and the mixture is slowly heated to 80° C. and maintained at that temperature for about 21 hours. The mass is cooled to 58° C., sodium nitrite (10 g) is added, and the mass is maintained at 78° C. for about 6 hours. The solvent is evaporated under reduced pressure. The compound obtained is diluted with water (250 mL) and extracted with ethyl acetate (2×500 mL). The combined organic layer is dried over anhydrous sodium sulphate (50 g) and concentrated under reduced pressure to give solid. Hexane (500 mL) is added and the mixture is cooled to −10° C. and stirred for 20 minutes. The formed solid is separated by filtration and washed with cold hexane (2×100 mL) to obtain the title compound as an off-white solid. Yield: 75 g.

reactant | 3-Chloro-1-(4-octylphenyl)propan-1-one | 110 g | ClCCC(=O)C1=CC=C(C=C1)CCCCCCCC | C17H25ClO
reactant | acetone | 1 L | CC(=O)C | C3H6O
reactant | Sodium nitrite | 271 g | N(=O)[O-].[Na+]
reactant | sodium nitrite | 10 g | N(=O)[O-].[Na+]
reactant | Hexane | 500 mL | CCCCCC | C6H14
solvent | water | 250 mL | O | H2O
product | 3-nitro-1-(4-octylphenyl)propan-1-one | [N+](=O)([O-])CCC(=O)C1=CC=C(C=C1)CCCCCCCC | C17H25NO3
